*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:10:28 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "BMXIX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  BMXIX4 M0 M1 PPN S X2 A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET M0 4.6878e-16
*|P (M0 X 0 0.3000 1.2350)
*|I (Mmn0:g Mmn0 g X 0 0.2275 0.3325)
*|I (Mmn6:g Mmn6 g X 0 0.8725 0.3325)
*|I (Mmp0:g Mmp0 g X 0 0.2275 1.0325)
*|I (Mmp4:g Mmp4 g X 0 0.8725 1.0325)
*|S (M0:2 0.2650 0.8250)
*|S (M0:6 0.9000 1.4000)
C1 Mmp4:g VSS 5.79648e-17
C2 Mmp0:g VSS 2.468e-17
C3 Mmn6:g VSS 5.77928e-17
C4 Mmn0:g VSS 4.62957e-17
C5 M0:2 VSS 9.43342e-17
C6 M0:6 VSS 1.04747e-16
C7 M0 VSS 8.29655e-17
Rl1 M0:2 Mmn0:g 147.309753 $W=0.039
Rl2 Mmp0:g M0:2 24.232828 $W=0.039
Rl3 Mmp4:g M0:6 132.230225 $W=0.039
Rl4 Mmp4:g Mmn6:g 200.000000 $W=0.039
Rk5 M0:6 M0 0.520194 $W=0.09
Rk6 M0 M0:2 45.285385 $W=0.08
*
*|NET M1 6.10607e-16
*|P (M1 X 0 1.9000 0.6650)
*|I (Mmn10:g Mmn10 g X 0 1.5525 0.3325)
*|I (Mmn1:g Mmn1 g X 0 2.4325 0.5875)
*|I (Mmp8:g Mmp8 g X 0 1.8825 1.0325)
*|I (Mmp1:g Mmp1 g X 0 2.4025 1.0325)
*|S (M1:2 1.5900 0.1600)
*|S (M1:4 1.8450 0.7950)
*|S (M1:6 2.3750 0.7950)
C8 Mmp1:g VSS 3.34264e-17
C9 Mmp8:g VSS 7.36917e-17
C10 Mmn1:g VSS 3.34144e-17
C11 Mmn10:g VSS 4.76448e-17
C12 M1:2 VSS 1.25429e-16
C13 M1:4 VSS 1.30287e-16
C14 M1:6 VSS 1.04876e-16
C15 M1 VSS 6.1837e-17
Rl7 Mmn10:g M1:2 69.232826 $W=0.039
Rl8 Mmn1:g M1:6 44.489296 $W=0.039
Rl9 Mmp8:g M1:4 80.771286 $W=0.039
Rl10 M1:6 Mmp1:g 32.487366 $W=0.039
Rk11 M1:6 M1 45.357246 $W=0.08
Rk12 M1 M1:4 0.015321 $W=0.23
Rk13 M1:4 M1:2 0.663433 $W=0.0725
*
*|NET PPN 2.58067e-16
*|P (PPN X 0 4.3000 0.6650)
C16 PPN VSS 2.58067e-16
*
*|NET S 7.91099e-16
*|P (S X 0 0.7000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 0.4325 0.3325)
*|I (Mmn7:g Mmn7 g X 0 2.2375 0.3325)
*|I (Mmp3:g Mmp3 g X 0 0.5925 1.0325)
*|I (Mmp7:g Mmp7 g X 0 1.9875 1.0325)
*|S (S:2 0.4600 0.7900)
*|S (S:6 2.0250 1.3050)
C17 Mmp7:g VSS 1.20402e-16
C18 Mmp3:g VSS 2.90609e-17
C19 Mmn7:g VSS 8.3457e-17
C20 Mmn3:g VSS 7.63612e-17
C21 S:2 VSS 1.12637e-16
C22 S:6 VSS 1.76999e-16
C23 S VSS 1.92182e-16
Rl14 S:2 Mmn3:g 130.564285 $W=0.039
Rl15 Mmp3:g S:2 65.361801 $W=0.039
Rl16 Mmp7:g S:6 94.232826 $W=0.039
Rl17 Mmn7:g Mmp7:g 278.411804 $W=0.039
Rk18 S:6 S 1.138493 $W=0.08
Rk19 S S:2 45.335129 $W=0.09
*
*|NET X2 5.07971e-16
*|P (X2 X 0 3.5000 1.4250)
*|I (Mmn11:g Mmn11 g X 0 3.0475 0.5100)
*|I (Mmn2:g Mmn2 g X 0 3.9775 0.5875)
*|I (Mmp12:g Mmp12 g X 0 3.4575 1.1150)
*|I (Mmp2:g Mmp2 g X 0 3.9775 1.0075)
*|S (X2:1 3.1050 0.7950)
*|S (X2:4 3.9775 0.8225)
*|S (X2:7 3.4950 1.4150)
C24 Mmp2:g VSS 3.2239e-17
C25 Mmp12:g VSS 6.93209e-17
C26 Mmn2:g VSS 3.71014e-17
C27 Mmn11:g VSS 3.94649e-17
C28 X2:4 VSS 5.58384e-17
C29 X2:1 VSS 1.62564e-16
C30 X2:7 VSS 1.81608e-17
C31 X2 VSS 9.3282e-17
Rl20 X2:1 Mmn11:g 94.292252 $W=0.039
Rl21 X2:4 Mmn2:g 60.771992 $W=0.039
Rl22 Mmp12:g X2:7 71.155907 $W=0.039
Rl23 X2:4 Mmp12:g 221.579697 $W=0.039
Rl24 Mmp2:g X2:4 28.079685 $W=0.039
Rk25 X2:7 X2 0.003305 $W=0.08
Rk26 X2:1 X2:7 0.671754 $W=0.09
*
*|NET A 2.79185e-16
*|P (A X 0 1.3000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 1.1275 0.3325)
*|I (Mmn9:g Mmn9 g X 0 1.3325 0.3325)
*|I (Mmp5:g Mmp5 g X 0 1.1825 1.0325)
*|I (Mmp9:g Mmp9 g X 0 1.3775 1.0325)
*|S (A:2 1.3050 0.7900)
*|S (A:3 1.3050 0.6925)
C32 Mmp9:g VSS 2.39781e-17
C33 Mmp5:g VSS 5.46861e-17
C34 Mmn9:g VSS 2.95153e-17
C35 Mmn5:g VSS 2.94032e-17
C36 A:3 VSS 2.92799e-17
C37 A:2 VSS 8.14004e-17
C38 A VSS 3.09218e-17
Rl27 A:2 A:3 11.090392 $W=0.094
Rl28 A:3 Mmn5:g 155.253754 $W=0.039
Rl29 A:3 Mmn9:g 105.832619 $W=0.039
Rl30 A:2 Mmp5:g 63.656452 $W=0.039
Rl31 Mmp9:g A:2 46.188419 $W=0.039
Rk32 A A:2 45.039055 $W=0.1
*
*|NET M0b 6.30136e-16
*|I (Mmn0:d Mmn0 d X 0 0.1250 0.3325)
*|I (Mmn4:g Mmn4 g X 0 0.5375 0.3325)
*|I (Mmp0:d Mmp0 d X 0 0.1250 1.0325)
*|I (Mmp6:g Mmp6 g X 0 1.0775 1.0325)
*|S (M0b:2 0.6900 0.5400)
*|S (M0b:4 1.0400 0.8250)
*|S (M0b:5 0.5800 0.5400)
*|S (M0b:6 0.1050 0.5400)
C39 Mmp6:g VSS 7.36352e-17
C40 Mmp0:d VSS 4.6435e-17
C41 Mmn4:g VSS 6.45404e-17
C42 Mmn0:d VSS 2.0979e-17
C43 M0b:6 VSS 4.12697e-17
C44 M0b:5 VSS 1.38774e-16
C45 M0b:2 VSS 5.62608e-17
C46 M0b:4 VSS 1.88242e-16
Rl33 Mmn4:g M0b:2 118.054115 $W=0.039
Rl34 Mmp6:g M0b:4 69.232826 $W=0.039
Rk35 M0b:4 M0b:5 1.048985 $W=0.08
Rk36 M0b:5 M0b:2 0.084436 $W=0.09
Rk37 M0b:5 M0b:6 0.317624 $W=0.09
Rk38 M0b:6 Mmn0:d 75.143494 $W=0.0915
Rk39 M0b:6 Mmp0:d 62.324978 $W=0.09
*
*|NET n3 0
*|I (Mmn3:d Mmn3 d X 0 0.4850 0.3325)
*|I (Mmn4:s Mmn4 s X 0 0.4850 0.3325)
Rmw40 Mmn4:s Mmn3:d 0.001000 $W=1
*
*|NET n0 7.91787e-16
*|I (Mmn4:d Mmn4 d X 0 0.7050 0.3325)
*|I (Mmn11:s Mmn11 s X 0 2.9550 0.5100)
*|I (Mmp4:d Mmp4 d X 0 0.9750 1.0325)
*|I (Mmp11:s Mmp11 s X 0 3.1025 1.1150)
*|S (n0:3 3.0350 1.0150)
*|S (n0:4 3.0350 1.2500)
*|S (n0:6 0.9750 1.0800)
C47 Mmp11:s VSS 2.96582e-16
C48 Mmp4:d VSS 3.10741e-16
C49 Mmn11:s VSS 7.04878e-17
C50 Mmn4:d VSS 1.13976e-16
Rk41 n0:3 n0:4 0.174738 $W=0.09
Rk42 n0:4 n0:6 1.697588 $W=0.08
Rk43 n0:6 Mmn4:d 75.681396 $W=0.08
Rk44 Mmn11:s n0:3 75.378204 $W=0.08
Rk45 Mmp4:d n0:6 62.000000 $W=0.08
Rk46 Mmp11:s n0:3 62.000000 $W=0.08
Rk47 Mmp11:s n0:4 62.000000 $W=0.08
*
*|NET n5 2.40959e-18
*|I (Mmn6:s Mmn6 s X 0 1.0000 0.3325)
*|I (Mmn5:d Mmn5 d X 0 1.0000 0.3325)
C51 Mmn6:s VSS 2.40959e-18
Rmw48 Mmn5:d Mmn6:s 0.001000 $W=1
*
*|NET n9 0
*|I (Mmn9:d Mmn9 d X 0 1.4425 0.3325)
*|I (Mmn10:s Mmn10 s X 0 1.4425 0.3325)
Rmw49 Mmn10:s Mmn9:d 0.001000 $W=1
*
*|NET n1 7.62175e-16
*|I (Mmn10:d Mmn10 d X 0 1.8050 0.3325)
*|I (Mmn12:d Mmn12 d X 0 3.4025 0.4400)
*|I (Mmp10:d Mmp10 d X 0 1.7800 1.0325)
*|I (Mmp12:d Mmp12 d X 0 3.5500 1.1150)
*|S (n1:3 1.7800 0.9850)
*|S (n1:5 3.3700 0.4400)
C52 Mmp12:d VSS 9.05502e-17
C53 Mmp10:d VSS 3.22252e-16
C54 Mmn12:d VSS 2.51685e-16
C55 Mmn10:d VSS 9.76882e-17
Rk50 n1:3 n1:5 1.884679 $W=0.08
Rk51 Mmn10:d n1:3 75.526894 $W=0.09
Rk52 Mmn12:d n1:5 75.000000 $W=0.08
Rk53 Mmp10:d n1:3 62.000000 $W=0.09
Rk54 n1:5 Mmp12:d 62.510967 $W=0.08
*
*|NET n7 0
*|I (Mmn8:s Mmn8 s X 0 2.1475 0.3325)
*|I (Mmn7:d Mmn7 d X 0 2.1475 0.3325)
Rmw55 Mmn7:d Mmn8:s 0.001000 $W=1
*
*|NET M1b 3.733e-16
*|I (Mmn8:g Mmn8 g X 0 2.0575 0.3325)
*|I (Mmn1:d Mmn1 d X 0 2.5250 0.5875)
*|I (Mmp10:g Mmp10 g X 0 1.6775 1.0325)
*|I (Mmp1:d Mmp1 d X 0 2.5250 1.0325)
*|S (M1b:2 2.0950 0.6350)
*|S (M1b:5 2.5350 0.5750)
C56 Mmp1:d VSS 6.33166e-17
C57 Mmp10:g VSS 8.07422e-17
C58 Mmn1:d VSS 5.93393e-17
C59 Mmn8:g VSS 3.29135e-17
C60 M1b:2 VSS 1.36988e-16
Rl56 Mmn8:g M1b:2 74.232826 $W=0.039
Rl57 M1b:2 Mmp10:g 236.092575 $W=0.039
Rk58 M1b:5 M1b:2 45.306152 $W=0.09
Rk59 Mmn1:d M1b:5 75.000000 $W=0.1225
Rk60 M1b:5 Mmp1:d 62.279694 $W=0.1
*
*|NET net293 6.12986e-16
*|I (Mmn11:d Mmn11 d X 0 3.1500 0.5100)
*|I (Mmn13@1:g Mmn13@1 g X 0 4.1825 0.5300)
*|I (Mmp11:d Mmp11 d X 0 3.3550 1.1150)
*|S (net293:6 4.1250 0.8000)
*|S (net293:15 3.3550 1.0600)
C61 Mmp11:d VSS 1.51062e-16
C62 Mmn13@1:g VSS 2.18691e-16
C63 Mmn11:d VSS 1.01854e-16
C64 net293:6 VSS 1.41379e-16
Rl61 Mmn13@1:g net293:6 49.680557 $W=0.094
Rk62 net293:15 net293:6 0.873548 $W=0.08
Rk63 net293:15 Mmn11:d 75.513435 $W=0.08
Rk64 net293:15 Mmp11:d 31.000000 $W=0.0885
*
*|NET X2b 2.78287e-16
*|I (Mmn12:g Mmn12 g X 0 3.2525 0.5100)
*|I (Mmn2:d Mmn2 d X 0 3.8850 0.5875)
*|I (Mmp11:g Mmp11 g X 0 3.2525 1.1150)
*|I (Mmp2:d Mmp2 d X 0 3.8850 1.0075)
*|S (X2b:1 3.7050 0.6900)
*|S (X2b:2 3.2525 0.7175)
*|S (X2b:6 3.8650 0.7000)
C65 Mmp2:d VSS 3.91558e-17
C66 Mmp11:g VSS 5.1023e-17
C67 Mmn2:d VSS 2.65968e-17
C68 Mmn12:g VSS 3.34497e-17
C69 X2b:6 VSS 2.26138e-17
C70 X2b:2 VSS 3.35977e-17
C71 X2b:1 VSS 7.18505e-17
Rl65 X2b:1 X2b:2 199.219421 $W=0.039
Rl66 X2b:2 Mmn12:g 28.079685 $W=0.039
Rl67 X2b:2 Mmp11:g 76.156609 $W=0.039
Rk68 X2b:6 X2b:1 0.074446 $W=0.1
Rk69 X2b:6 Mmn2:d 75.063797 $W=0.08
Rk70 Mmp2:d X2b:6 62.159935 $W=0.1
*
*|NET n4 2.52684e-18
*|I (Mmp3:d Mmp3 d X 0 0.7325 1.0325)
*|I (Mmp4:s Mmp4 s X 0 0.7325 1.0325)
C72 Mmp3:d VSS 2.52684e-18
Rmw71 Mmp4:s Mmp3:d 0.001000 $W=1
*
*|NET n6 1.68863e-18
*|I (Mmp6:s Mmp6 s X 0 1.1300 1.0325)
*|I (Mmp5:d Mmp5 d X 0 1.1300 1.0325)
C73 Mmp6:s VSS 1.68863e-18
Rmw72 Mmp5:d Mmp6:s 0.001000 $W=1
*
*|NET n10 4.47851e-18
*|I (Mmp9:d Mmp9 d X 0 1.5275 1.0325)
*|I (Mmp10:s Mmp10 s X 0 1.5275 1.0325)
C74 Mmp9:d VSS 4.47851e-18
Rmw73 Mmp10:s Mmp9:d 0.001000 $W=1
*
*|NET n8 1.39476e-18
*|I (Mmp8:s Mmp8 s X 0 1.9350 1.0325)
*|I (Mmp7:d Mmp7 d X 0 1.9350 1.0325)
C75 Mmp8:s VSS 1.39476e-18
Rmw74 Mmp7:d Mmp8:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0232P	PD=0.61U	PS=0.61U
+ fw=1.45e-07 sa=1.6e-07 sb=2e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.65e-07 sb=1.905e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04205P	AS=0.0087P	PD=0.87U	PS=0.41U
+ fw=1.45e-07 sa=4.7e-07 sb=1.8e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn6	Mmn4:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04205P	AS=0.03045P	PD=0.87U	PS=0.71U
+ fw=1.45e-07 sa=8.05e-07 sb=1.465e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03045P	AS=0.0232P	PD=0.71U	PS=0.61U
+ fw=1.45e-07 sa=1.06e-06 sb=1.21e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn9	Mmn9:d	Mmn9:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02537P	AS=0.0232P	PD=0.64U	PS=0.61U
+ fw=1.45e-07 sa=1.265e-06 sb=1.005e-06 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn10	Mmn10:d	Mmn10:g	Mmn10:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0667P	AS=0.02537P	PD=1.21U	PS=0.64U
+ fw=1.45e-07 sa=1.485e-06 sb=7.85e-07 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn8	Mmn10:d	Mmn8:g	Mmn8:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0667P	AS=0.01957P	PD=1.21U	PS=0.56U
+ fw=1.45e-07 sa=1.99e-06 sb=2.8e-07 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn7	Mmn7:d	Mmn7:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01957P	AS=0.0519P	PD=0.56U	PS=1.6U
+ fw=1.45e-07 sa=2e-06 sb=1e-07 sca=7.09016 scb=0.00401586 scc=3.69756e-05
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0519P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=1e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0364P	PD=0.84U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=3.30385e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn12	Mmn12:d	Mmn12:g	Mmn11:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0326P	AS=0.0416P	PD=0.83U	PS=0.84U
+ fw=2.6e-07 sa=3.45e-07 sb=1.25385e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0347P	PD=0.57U	PS=0.84U
+ fw=1.45e-07 sa=1.4e-07 sb=9.6e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn13@1	PPN	Mmn13@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.03858P	PD=0.84U	PS=0.83U	M=4
+ fw=2.6e-07 sa=2.36635e-07 sb=7.55e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.1276P	PD=0.75U	PS=2.05U
+ fw=2.15e-07 sa=1.6e-07 sb=2e-06 sca=44.4931 scb=0.0420172 scc=0.00520661
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05053P	AS=0.1276P	PD=0.9U	PS=2.05U
+ fw=2.15e-07 sa=5.25e-07 sb=2e-06 sca=34.6718 scb=0.0267184 scc=0.00427277
Mmp4	Mmp4:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.05053P	PD=0.75U	PS=0.9U
+ fw=2.15e-07 sa=8.05e-07 sb=1.73e-06 sca=33.4709 scb=0.0258398 scc=0.00427134
Mmp6	Mmp4:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0129P	PD=0.75U	PS=0.55U
+ fw=2.15e-07 sa=1.01e-06 sb=1.525e-06 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.06515P	PD=0.55U	PS=1.85U
+ fw=2.15e-07 sa=1.115e-06 sb=1.42e-06 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp9	Mmp9:d	Mmp9:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05483P	AS=0.06515P	PD=0.94U	PS=1.85U
+ fw=2.15e-07 sa=1.31e-06 sb=1.225e-06 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp10	Mmp10:d	Mmp10:g	Mmp10:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05483P	PD=0.75U	PS=0.94U
+ fw=2.15e-07 sa=1.61e-06 sb=9.25e-07 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp8	Mmp10:d	Mmp8:g	Mmp8:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0129P	PD=0.75U	PS=0.55U
+ fw=2.15e-07 sa=1.815e-06 sb=7.2e-07 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp7	Mmp7:d	Mmp7:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.13835P	PD=0.55U	PS=2.15U
+ fw=2.15e-07 sa=1.92e-06 sb=6.15e-07 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.043P	AS=0.13835P	PD=0.83U	PS=2.15U
+ fw=2.15e-07 sa=2e-06 sb=2e-07 sca=33.2772 scb=0.0257934 scc=0.00427133
Mmp11	Mmp11:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.09945P	PD=1.1U	PS=1.29U
+ fw=3.9e-07 sa=2.55e-07 sb=3.45e-07 sca=24.4353 scb=0.0186618 scc=0.00260099
Mmp12	Mmp12:d	Mmp12:g	Mmp11:d	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=4.6e-07 sb=1.4e-07 sca=24.4353 scb=0.0186618 scc=0.00260099
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06605P	PD=0.71U	PS=1.47U
+ fw=2.15e-07 sa=1.4e-07 sb=9.6e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp13@1	PPN	Mmn13@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.06136P	PD=1.1U	PS=1.1825U	M=4
+ fw=3.9e-07 sa=2.35962e-07 sb=7.55e-07 sca=30.8435 scb=0.0202998 scc=0.00336099
.ENDS
.END
