*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:10:53 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "BUFX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  BUFX2 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.17292e-16
*|P (A X 0 0.7050 0.8150)
*|I (Mmn0:g Mmn0 g X 0 0.6125 0.4525)
*|I (Mmp0:g Mmp0 g X 0 0.6125 1.2125)
*|S (A:2 0.6400 0.8200)
C1 Mmp0:g VSS 4.49998e-17
C2 Mmn0:g VSS 4.16705e-17
C3 A:2 VSS 1.09938e-16
C4 A VSS 2.06836e-17
Rl1 A:2 Mmn0:g 100.691772 $W=0.039
Rl2 Mmp0:g A:2 96.845619 $W=0.039
Rk3 A A:2 45.034176 $W=0.12
*
*|NET Y 1.9526e-16
*|P (Y X 0 0.2250 0.8100)
*|I (Mmn1:s Mmn1 s X 0 0.3050 0.5100)
*|I (Mmp1:d Mmp1 d X 0 0.3050 1.1250)
*|S (Y:2 0.3050 0.8200)
C5 Mmp1:d VSS 8.11479e-17
C6 Mmn1:s VSS 6.31854e-17
C7 Y:2 VSS 3.64446e-17
C8 Y VSS 1.4482e-17
Rk4 Y:2 Y 0.025055 $W=0.125
Rk5 Y:2 Mmn1:s 37.747826 $W=0.08
Rk6 Y:2 Mmp1:d 20.913570 $W=0.08
*
*|NET n0 3.87348e-16
*|I (Mmn1:g Mmn1 g X 0 0.2025 0.5100)
*|I (Mmn0:s Mmn0 s X 0 0.7050 0.4525)
*|I (Mmp0:d Mmp0 d X 0 0.7050 1.2125)
*|S (n0:8 0.4500 0.7400)
C9 Mmp0:d VSS 6.00385e-17
C10 Mmn0:s VSS 4.58216e-17
C11 Mmn1:g VSS 2.81488e-16
Rk7 n0:8 Mmn1:g 45.000000 $W=0.08
Rk8 n0:8 Mmn0:s 75.385101 $W=0.08
Rk9 n0:8 Mmp0:d 62.505367 $W=0.08
*
*Instance Section
*
Mmn0	VSS	Mmn0:g	Mmn0:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0347P	AS=0.0203P	PD=0.84U	PS=0.57U
+ fw=1.45e-07 sa=5.5e-07 sb=1.4e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn1	VSS	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.03555P	AS=0.0416P	PD=0.82U	PS=0.84U	M=2
+ fw=2.6e-07 sa=1.4e-07 sb=4.41635e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0519P	PD=0.71U	PS=1.1U
+ fw=2.15e-07 sa=5.5e-07 sb=1.4e-07 sca=16.9419 scb=0.0158681 scc=0.000320204
Mmp1	Mmp1:d	Mmn1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.05325P	PD=1.1U	PS=1.08U	M=2
+ fw=3.9e-07 sa=1.4e-07 sb=4.40064e-07 sca=36.3413 scb=0.0370255 scc=0.00367875
.ENDS
.END
